US06703392B2
2-[1-(3,4-Methylenedioxy-benzyl)-5,8-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-[1,3,4]thiadiazol-2-yl-acetamide:
prepared by reaction of 1-(3,4-Methylenedioxy-benzyl)-5,8-dimethoxy-1,2,3,4-tetrahydroisoquinoline and 2-bromoacetyl bromide with 2-amino-1,3,4-thiadiazole

reactant | 1-(3,4-Methylenedioxy-benzyl)-5,8-dimethoxy-1,2,3,4-tetrahydroisoquinoline | C1OC=2C=C(CC3NCCC4=C(C=CC(=C34)OC)OC)C=CC2O1 | C19H21NO4
reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | 2-amino-1,3,4-thiadiazole | NC=1SC=NN1 | C2H3N3S
product | 2-[1-(3,4-Methylenedioxy-benzyl)-5,8-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-[1,3,4]thiadiazol-2-yl-acetamide | C1OC=2C=C(CC3N(CCC4=C(C=CC(=C34)OC)OC)CC(=O)NC=3SC=NN3)C=CC2O1 | C23H24N4O5S
